US07919223B2
Synthesis of 1-(2-naphthyl)-1,1-bis(3-methyl-4-hydroxyphenyl)ethane
A mixture of 43.2 g (0.4 mol) of o-cresol and 17.1 g (0.1 mol) of β-acetonaphthone was made into a solution by heating at about 30° C. After adding 0.1 ml of sulfuric acid, 0.8 ml of 3-mercaptopropionic acid and 10 ml of toluene to the solution, the reaction was allowed to proceed under stirring. After confirming that the conversion reached 100% by a gas chromatographic analysis, 100 ml of toluene was added. The solid precipitated by cooling was filtered under reduced pressure, washed with a warm water of 60° C. under stirring, and purified by a silica gel column chromatography, to obtain 24 g of the title compound.

reactant | o-cresol | 0.4 mol, 43.2 g | C1(=CC=CC=C1O)C | C7H8O
reactant | β-acetonaphthone | 0.1 mol, 17.1 g | CC(=O)C1=CC2=CC=CC=C2C=C1 | C12H10O
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | 3-mercaptopropionic acid | 0.8 ml | SCCC(=O)O | C3H6O2S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-naphthyl)-1,1-bis(3-methyl-4-hydroxyphenyl)ethane | 24 g | C1=C(C=CC2=CC=CC=C12)C(C)(C1=CC(=C(C=C1)O)C)C1=CC(=C(C=C1)O)C | C26H24O2
